US07728030B2
5-Iodo-1-(4-pyridyl)-1H-indazole
Cesiumcarbonate (26.84 g, 82.38 mmol) is added to a suspension of 2-fluoro-5-iodobenzaldehyde (6.87 g, 27.46 mmol) and 4-pyridylhydrazine dihydrochloride (5 g, 27.46 mmol) in 136 mL N-methylpyrrolidon. The reaction mixture is stirred overnight at r.t. After checking that the hydrazone has been formed (1H-NMR) the reaction mixture is heated for 4 h at 160° C. The reaction mixture is allowed to cool down and the darkbrown suspension is poured on 1000 mL ice water. After vigorously stirring at r.t. for 45 min, the precipitated product is sucked off via a glass microfibre filter, washed with water and dried at the evaporator at 45° C. The title compound is obtained with a yield of 92.3% (8.14 g).

reactant | Cesiumcarbonate | 82.38 mmol, 26.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluoro-5-iodobenzaldehyde | 27.46 mmol, 6.87 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 4-pyridylhydrazine dihydrochloride | 27.46 mmol, 5 g | Cl.Cl.N1=CC=C(C=C1)NN
solvent | N-methylpyrrolidon | 136 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Iodo-1-(4-pyridyl)-1H-indazole | yield of 92.3% | IC=1C=C2C=NN(C2=CC1)C1=CC=NC=C1 | C12H8IN3
